Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C@@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15]>>[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15],1.10079719912
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1],4.97452828858
[H:1][C:2]([H:3])=[C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[H:9],4.4082106340400005
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1].[O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],4.62353775179
[O:1]=[C:2][C:3]([O:4][H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]=[C:3]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:4][H:5],3.2127339603400005
[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2]/[C:3](=[C:4]\[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.83921937007
[C:1][C:2]([H:3])([H:4])[C:5]([O:6][H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:1].[C:2]([H:3])([H:4])[C:5]([O:6][H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],3.94311982077
[O:1]=[C:2]=[C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10]>>[O:1]=[C:2]=[C:3]1[O:4][C@:5]1([H:6])[C:7]([H:8])([H:9])[H:10],-1.20577951265
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14].[H:8]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14],-1.9868237142900005
[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16].[O:1]=[C:2]([H:3])[H:4]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16],-0.80272243
[H:1][C:2][O:3][C:4]([O:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][C:2][O:3][C:4]([O:5][C:6]([H:7])[H:8])=[C:9]([H:10])[H:11],2.66233673335
[H:1][O:2][C:3]#[C:4][O:5][H:6]>>[C:4][O:5][H:6].[H:1][O:2][C:3],5.03267897
[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[C:6]([H:7])([H:8])[H:9].[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:10]([H:11])([H:12])[O:13][H:14],4.76417446091
[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])[O:8][H:9]>>[H:1][C:2][O:3][C:4][C:5]#[C:6][O:8][H:9].[H:7],4.02245109552
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11](=[O:12])[H:13]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]=[O:12].[H:13],3.95867631466
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]#[C:7][O:8][H:9]>>[C:3]([H:4])([H:5])[C:6]#[C:7][O:8][H:9].[O:1]=[C:2],0.1834968223099999
[H:10].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([O:11][H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C@@:9]([H:10])([O:11][H:12])[C:13]([H:14])([H:15])[H:16],-4.13042700181
[H:1].[O:2][O:3][C:4]([H:5])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][O:3][C:4]([H:5])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.5959048078
[H:13].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])[H:12]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])([H:12])[H:13],-4.49598070197
[C:11]([H:12])([H:13])=[C:14]([H:15])[H:16].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16],1.31264718
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])/[C:10]([H:11])=[C:12]/[C:13]([H:14])([H:15])[H:16]>>[H:16].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]=[C:13]([H:14])[H:15],1.91963150875
[H:6].[O:1]=[C:2]([H:3])[C:4]([H:5])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-4.01249693909
[H:14].[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][C:11]([H:12])([H:13])[H:14],-4.18944961285
[H:1][O:2][C:3]([C:4]([H:5])[H:6])=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]=[C:4]([H:5])[H:6],4.65675848439
[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.0964182878300015
[C:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7][O:8][H:9]>>[C:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]=[O:8].[H:9],1.98249579655
